US03947473
Trimethylhydroquinone (7.61 g.) was suspended under N2 in 60 ml. of benzene and 15 ml. of 25% dimethylamine in H2O. Aqueous formaldehyde solution (37%, 7.5 ml.) was added over 15 minutes and stirring was continued at 25° overnight. The benzene layer was washed with H2O, dried over Na2SO4, and stripped of solvent to give 2-dimethylaminomethyl-3,5,6-trimethylhydroquinone as a light tan solid. A similarly prepared sample of this material, which is quite susceptible to air oxidation, had a m.p. of 103°-108.5° with decomposition, after isolation from methanol-H2O.

reactant | Trimethylhydroquinone | 7.61 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | 7.5 ml | C=O | CH2O
solvent | H2O | O | H2O
product | 2-dimethylaminomethyl-3,5,6-trimethylhydroquinone | CN(C)CC1=C(O)C(=C(C(=C1C)O)C)C | C12H19NO2
